US06353025B1
To a stirred suspension of aluminum chloride (13.4 g) in carbon disulfide (68 ml) was added bromoacetyl bromide (8.8 ml) under ice-cooling, and the mixture was stirred for 30 minutes. 2′,5′-Dimethylacetanilide (5.57 g) was added to the stirred mixture, and the mixture was heated under reflux for 12 hours. After cooling, the reaction mixture was poured into ice-water, and the resulting precipitate were collected by filtration and washed with water. The cake was dissolved in ethyl acetate, and the solution was dried over anhydrous magnesium sulfate. After removal of the solvent, the residue was washed with diethyl ether to give 4′-(2-bromo-acetyl)-2′,5′-dimethylacetanilide (5.65 g).

reactant | aluminum chloride | 13.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromoacetyl bromide | 8.8 ml | BrCC(=O)Br | C2H2Br2O
reactant | 2′,5′-Dimethylacetanilide | 5.57 g | CC1=C(NC(C)=O)C=C(C=C1)C | C10H13NO
solvent | carbon disulfide | 68 ml | C(=S)=S | CS2
product | 4′-(2-bromo-acetyl)-2′,5′-dimethylacetanilide | 5.65 g | BrCC(=O)C1=CC(=C(NC(C)=O)C=C1C)C | C12H14BrNO2
